US06838463B2
In 2 ml of tetrahydrofuran was suspended 0.05 g of sodium hydride (60% in oil), to which 0.6 ml of a tetrahydrofuran solution containing 0.07 g of 2-butyn-1-ol was slowly added dropwise with stirring at room temperature. The mixture was stirred at room temperature for 20 minutes, to which 0.6 ml of a tetrahydrofuran solution containing 0.2 g of 4-chloro-6-(2,3-difluorobenzyl)pyrimidine was slowly added dropwise at room temperature, followed by stirring for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution and extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 0.22 g of 4-(2-butynyloxy)-6-(2,3-difluorobenzyl)pyrimidine (the present compound (96)).

reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | 2-butyn-1-ol | 0.07 g | C(C#CC)O | C4H6O
reactant | 4-chloro-6-(2,3-difluorobenzyl)pyrimidine | 0.2 g | ClC1=NC=NC(=C1)CC1=C(C(=CC=C1)F)F | C11H7ClF2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(2,3-difluorobenzyl)pyrimidine | 0.22 g | C(C#CC)OC1=NC=NC(=C1)CC1=C(C(=CC=C1)F)F | C15H12F2N2O
